US06174922B1
N-[2-[4-oxocyclohexyl]ethyl] 2-propanesulfonamide
N-[2-[4-aminocyclohexyl]propyl] 2-propanesulfonamide: To a suspension of 17 mg (0.45 mmol) of lithium aluminum hydride in 1 ml of diethylether, 25 mg (0.09 mmol) of the material prepared in Preparation 4 in 0.5 ml of diethyl ether was added. The mixture was stirred overnight for 24 hrs. Na2SO4.10H2O was added, and the mixture stirred for 30 min at ambient temperature. The solid was filtered and the organic solution was concentrated in vacuo. Afforded 24 mg (100%) of the title compound.

reactant | N-[2-[4-aminocyclohexyl]propyl] 2-propanesulfonamide | NC1CCC(CC1)C(CNS(=O)(=O)C(C)C)C | C12H26N2O2S
reactant | lithium aluminum hydride | 0.45 mmol, 17 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | diethylether | 1 ml | C(C)OCC | C4H10O
reactant | diethyl ether | 0.5 ml | C(C)OCC | C4H10O
product | N-[2-[4-oxocyclohexyl]ethyl] 2-propanesulfonamide | 24 mg, 100% | O=C1CCC(CC1)CCNS(=O)(=O)C(C)C | C11H21NO3S
